US05811432
E) 5-Chloro-1-ethyl-3-(2-thenoyl)-7-azaoxindole
To a solution of 5-chloro-1-ethyl-7-azaoxindole (400 mg, 2.03 mmol) and 4-dimethylaminopyridine (537 mg, 4.4 mmol) in DMF (10 mL) at 0° C. was added thiophene-2-carbonyl chloride (0.24 mL, 2.24 mmol). The reaction mixture was stirred at room temperature for 2 hours and then poured into ice/water. The mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried (magnesium sulfate) and concentrated in vacuo. The residue was chromatographed on a column of silica gel eluting with chloroform. Fractions containing only the desired product were combined and concentrated to afford the title compound as a solid which was recrystallized from hexanes. The yield of recrystallized material was 29 mg (50%).

reactant | 5-chloro-1-ethyl-7-azaoxindole | 2.03 mmol, 400 mg | ClC=1C=C2CC(N(C2=NC1)CC)=O | C9H9ClN2O
reactant | thiophene-2-carbonyl chloride | 2.24 mmol, 0.24 mL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
catalyst | 4-dimethylaminopyridine | 4.4 mmol, 537 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-1-ethyl-3-(2-thenoyl)-7-azaoxindole | ClC=1C=C2C(C(N(C2=NC1)CC)=O)C(C1=CC=CS1)=O | C14H11ClN2O2S
